US07138361B2
Step B: Preparation of 2,4,5,6-tetrahydro-6,6-dimethylcyclopentapyrazole
To a solution of 2-[(dimethylamino)methylene]-5,5-dimethylcyclopentanone (12.5 g, 75 mmol) in ethanol (100 mL) at room temperature was added hydrazine hydrate (4 mL, 82.3 mmol). The reaction mixture was heated at reflux overnight. It was then cooled to room temperature and concentrated. Water (700 mL) was added to the residue, and the resulting solution was extracted twice with diethyl ether (2×250 mL). The organic extracts were combined, dried over MgSO4 and concentrated to give the title compound as an oil (10.5 g). 1H NMR indicated the oil to be ˜60% pure. It was used directly for Step C.

reactant | 2-[(dimethylamino)methylene]-5,5-dimethylcyclopentanone | 75 mmol, 12.5 g | CN(C)C=C1C(C(CC1)(C)C)=O | C10H17NO
reactant | hydrazine hydrate | 82.3 mmol, 4 mL | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,4,5,6-tetrahydro-6,6-dimethylcyclopentapyrazole | 10.5 g | CC1(CCC2=CNN=C21)C | C8H12N2
